US07714022B2
3-[1,3]Dithian-2-yl-1,3-diphenyl-propan-1-one:
n-BuLi (2.5 M in hexanes; 7.50 mL; 18.8 mmol) was added over 2 min to [1,3]dithiane (1.876 g; 15.6 mmol) in dry THF (20 mL) at −78° C. The r×n warmed to −20° C. over 1.5 h then was cooled to −78° C. and chalcone (3.239 g; 15.6 mmol) was added in one portion. After 6 h the r×n was quenched with satd NH4Cl. Aq/organic extractions were followed by partial purification by MPLC (silica eluting with a dichloromethane in hexanes gradient) affording a mixture of [1,2] and [1,4] addition products. 1H NMR (CDCl3; partial spectrum for major product) δ 4.38 (d, J=6.8 Hz, 1H), 3.50 (dd, J=8.2, 17.4 Hz, 1H).

reactant | n-BuLi | 18.8 mmol, 2.5 M, 7.50 mL | [Li]CCCC
reactant | [1,3]dithiane | 15.6 mmol, 1.876 g | S1CSCCC1 | C4H8S2
reactant | chalcone | 15.6 mmol, 3.239 g | C1(=CC=CC=C1)C=CC(=O)C1=CC=CC=C1 | C15H12O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-[1,3]Dithian-2-yl-1,3-diphenyl-propan-1-one | S1C(SCCC1)C(CC(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C19H20OS2
